US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(4-methylpiperazin-1-yl)isonicotinamide was prepared from 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3yl)isonicotinamide and N-methylpiperazine using method A. NMR; δH [2H6]—DMSO 10.31,(1H, s), 8.62,(1H, t), 8.24,(1H, d), 7.93,(2H, d), 7.71,(1H, dd), 7.64,(1H, d), 7.44,(2H, d), 7.30,(1H, d), 7.23,(1H, s), 7.06,(1H, d), 3.55,(4H, m), 3.16,(2H, t), 2.40,(4H, t), 2.21,(6H, m), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 2.74 min, MH+484.

reactant | 2-chloro-N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3yl)isonicotinamide | ClC=1C=C(C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)C(=O)NCC2CC2)C=CN1 | C24H22ClN3O2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)-2-(4-methylpiperazin-1-yl)isonicotinamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C1=CC(=NC=C1)N1CCN(CC1)C)=O | C29H33N5O2
